US07884110B2
3,4-Dichloro-N-[5-methyl-2-(7H-pyrrolo[2,3-d]pyrimidine-4-carbonyl)-pyridin-3-yl]-benzenesulfonamide
Prepared from 563 mg (1.55 mmol) of 3,4-dichloro-N-(2-cyano-5-methyl-pyridin-3-yl)-benzenesulfonamide sodium salt, 506 mg (2.01 mmol) of 97% 4-iodo-7H-pyrrolo[2,3-d]pyrimidine dissolved in 6 mL THF with 1.16 mL of 1.8 M phenylmagnesium chloride solution in THF and 1.06 mL of 2 M isopropylmagnesium chloride solution in THF added. The reaction yielded 471 mg of the final product as a yellow solid.

reactant | 3,4-dichloro-N-(2-cyano-5-methyl-pyridin-3-yl)-benzenesulfonamide sodium salt | 1.55 mmol, 563 mg | [Na].ClC=1C=C(C=CC1Cl)S(=O)(=O)NC=1C(=NC=C(C1)C)C#N
reactant | 4-iodo-7H-pyrrolo[2,3-d]pyrimidine | 2.01 mmol, 506 mg | IC=1C2=C(N=CN1)NC=C2 | C6H4IN3
reactant | THF | 6 mL | C1CCOC1 | C4H8O
solvent | phenylmagnesium chloride | 1.8 M, 1.16 mL | C1(=CC=CC=C1)[Mg]Cl
solvent | isopropylmagnesium chloride | 2 M, 1.06 mL | C(C)(C)[Mg]Cl
product | 3,4-Dichloro-N-[5-methyl-2-(7H-pyrrolo[2,3-d]pyrimidine-4-carbonyl)-pyridin-3-yl]-benzenesulfonamide | 471 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC=1C(=NC=C(C1)C)C(=O)C=1C2=C(N=CN1)NC=C2 | C19H13Cl2N5O3S
